US06825208B2
6-(5-Hydroxy-4′-isopropyl-4-methoxy-biphenyl-2-yl)-5,6a,7,11b-tetrahydro-6H-indeno[2,1-c]quinoline-2-carboxamidine
4-amino-benzamidine mono HCl salt (34.5 mg, 0.2 mmole) was suspended in acetonitrile (1 mL). The suspension was treated with 5-Hydroxy-4′-isopropyl-4-methoxy-biphenyl-2-carbaldehyde (27.0 mg, 0.1 mmole) and indene(23.2 mg, 0.2 mmole). Indium triflate (11.2 mg, 0.02 mmole) was added and the reaction was heated at 70° C. for 24 hours. The desired product was purified using reverse phase HPLC. Mass spectrum: 504 (M+1).

reactant | 4-amino-benzamidine mono HCl salt | 0.2 mmole, 34.5 mg | Cl.NC1=CC=C(C(=N)N)C=C1
reactant | 5-Hydroxy-4′-isopropyl-4-methoxy-biphenyl-2-carbaldehyde | 0.1 mmole, 27.0 mg | OC1=C(C=C(C(=C1)C1=CC=C(C=C1)C(C)C)C=O)OC | C17H18O3
reactant | indene | 0.2 mmole, 23.2 mg | C1C=CC2=CC=CC=C12 | C9H8
reactant | Indium triflate | 0.02 mmole, 11.2 mg | [O-]S(=O)(=O)C(F)(F)F.[In+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 6-(5-Hydroxy-4′-isopropyl-4-methoxy-biphenyl-2-yl)-5,6a,7,11b-tetrahydro-6H-indeno[2,1-c]quinoline-2-carboxamidine | OC=1C(=CC(=C(C1)C1=CC=C(C=C1)C(C)C)C1NC2=CC=C(C=C2C2C1CC1=CC=CC=C12)C(=N)N)OC | C33H33N3O2
